US06451839B1
Part E. Preparation of [[2-Ethyl-1-(phenylmethyl)-3-ureido-1H-indol-4-yl]oxy]acetic acid tert-butyl ester
A solution of 2.3 g (6.3 mmol) [[2-ethyl-1-(phenylmethyl)-1H-indol-4-yl]oxy]acetic acid tert-butyl ester and 4.8 g (12.6 mmol) bis(2,2,2-trichloroethyl)azodicarboxylate in diethyl ether was stirred for 24 hours at room temperature. The resulting solid was filtered and vacuum dried. This adduct (1 g, 1.3 mmol) was dissolved in 10 mL of THF and treated with zinc (1 g) and glacial acetic acid (0.5 mL). After stirring for 30 minutes at room temperature an excess of trimethylsilylisocyanate in 1 mL of THF was added stirring was continued at room temperature for 18 hours. The mixture was diluted with water and extracted with ethyl acetate. The organic layer was washed with brine, dried over MgSO4 and concentrated to dryness to give 0.385 g (69% yield) of the subtitled material. Mass spectrum: 423.

reactant | [[2-ethyl-1-(phenylmethyl)-1H-indol-4-yl]oxy]acetic acid tert-butyl ester | 6.3 mmol, 2.3 g | C(C)(C)(C)OC(COC1=C2C=C(N(C2=CC=C1)CC1=CC=CC=C1)CC)=O | C23H27NO3
reactant | bis(2,2,2-trichloroethyl)azodicarboxylate | 12.6 mmol, 4.8 g | C(C(Cl)(Cl)Cl)OC(=O)/N=N/C(=O)OCC(Cl)(Cl)Cl | C6H4Cl6N2O4
reactant | acetic acid | 0.5 mL | C(C)(=O)O | C2H4O2
reactant | trimethylsilylisocyanate | C[Si](C)(C)N=C=O | C4H9NOSi
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
catalyst | zinc | 1 g | [Zn] | Zn
product | [[2-Ethyl-1-(phenylmethyl)-3-ureido-1H-indol-4-yl]oxy]acetic acid tert-butyl ester | 0.385 g, 69% yield | C(C)(C)(C)OC(COC1=C2C(=C(N(C2=CC=C1)CC1=CC=CC=C1)CC)NC(=O)N)=O | C24H29N3O4
